US04438123
To a solution of sodium methoxide (5.0 millimoles) in methanol (100 ml), freshly generated by the careful portionwise additions of sodium (1.15 g, 5.0 millimole) to methanol (100 ml.), is added 4,5-dichloro-m-benzenedisulfonamide (15.16 g, 5.0 millimole) with stirring at 25° C. The resulting mixture is stirred at 25° C. for 30 minutes to provide a colorless solution which is filtered. Evaporation of the clear, colorless filtrate at 40° C. in vacuo provides a solid residue which is dried in vacuo at 80° C. for 16 hours to provide analytically pure 4,5-dichloro-m-benzenedisulfonamide mono sodium salt as a colorless solid (14.0 g., 85%), m.p./252°-244° C.

reactant | sodium methoxide | 5.0 millimoles | C[O-].[Na+]
reactant | sodium | 5.0 millimole, 1.15 g | [Na] | Na
reactant | 4,5-dichloro-m-benzenedisulfonamide | 5.0 millimole, 15.16 g | ClC1=C(C=C(C=C1Cl)S(=O)(=O)N)S(=O)(=O)N | C6H6Cl2N2O4S2
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | 4,5-dichloro-m-benzenedisulfonamide mono sodium salt | [Na+].ClC1=C(C=C(C=C1Cl)S(=O)(=O)[NH-])S(=O)(=O)N | InChI=1S/C6H5Cl2N2O4S2.Na/c7-4-1-3(15(9,11)12)2-5(6(4)8)16(10,13)14;/h1-2H,(H3-,9,10,11,12,13,14);/q-1;+1
